US08133995B2
Step 4: Preparation of ethyl 1-amino-4-{4-[(tert-butoxycarbonyl)amino]-3-fluorophenyl}-5-cyano-1H-pyrrole-3-carboxylate
A 1-L 3-neck rbf was fitted with an overhead stirrer and charged with sodium hydride (60% dispersion in mineral oil, 2.19 g, 54.6 mmol) and DMF (550 mL). Ethyl 4-{4-[(tert-butoxycarbonyl)amino]-3-fluorophenyl}-5-cyano-1H-pyrrole-3-carboxylate (10.00 g, 45.5 mmol) was added and the mixture was left to stir at rt for 15 min. The reaction mixture was treated with (aminooxy)(diphenyl) phosphine oxide (12.74 g, 54.6 mmol) and heated to 60° C. The very thick reaction mixture gradually became a readily stirred suspension. After 1 h analysis by RP-HPLC indicated that all starting material had been consumed. The reaction was cooled to rt and diluted with 1.5 L EtOAc and aq. sodium bicarbonate. The aqueous layer was back extracted with EtOAc (2×) and the combined organic layers were dried (sodium sulfate) and filtered through a silica plug. Trituration with ether:hexanes (1:2) gave the title compound as a yellowish powder (18.06 g, 46.5 mmol, 93.7%). 1H-NMR (DMSO-d6) 9.13 (s, 1H), 7.68 (s, 1H, 7.68 (t, J=8 Hz, 1H), 7.29 (dd, J=12, 2 Hz, 1H), 7.19 (dd, J=8 Hz, 1H), 6.67 (s, 2H), 4.14 (q, J=7 Hz, 2H), 1.50 (s, 9H), 1.18 (s, 3H); MS [M+Na]+=411.0; LCMS RT=3.48.

reactant | sodium hydride | 54.6 mmol, 2.19 g | [H-].[Na+]
reactant | Ethyl 4-{4-[(tert-butoxycarbonyl)amino]-3-fluorophenyl}-5-cyano-1H-pyrrole-3-carboxylate | 45.5 mmol, 10.00 g | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)C=1C(=CNC1C#N)C(=O)OCC)F | C19H20FN3O4
reactant | (aminooxy)(diphenyl) phosphine oxide | 54.6 mmol, 12.74 g | NOP(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C12H12NO2P
solvent | DMF | 550 mL | CN(C)C=O | C3H7NO
product | ethyl 1-amino-4-{4-[(tert-butoxycarbonyl)amino]-3-fluorophenyl}-5-cyano-1H-pyrrole-3-carboxylate | NN1C=C(C(=C1C#N)C1=CC(=C(C=C1)NC(=O)OC(C)(C)C)F)C(=O)OCC | C19H21FN4O4
